US07671195B2
EP 0282236-A1 reports that a dibenzothiazepine derivative can be processed to give 11-[4-(2-(2-hydroxyethoxy)-ethyl]-1-piperadinyldibenzothiazepine derivative, which is of value as, for example, an antipsychotic pharmaceutical. In more detail, dibenzo-[b,f][1,4]thiazepin-11-one, which is a representative compound of the dibenzothiazepine derivatives reported therein, is reacted with phosphorus oxychloride to yield a 11-chloro-dibenzothiazepine derivative. To the 11-chloro-dibenzothiazepine derivative is added piperazine to yield a 11-piperazinyl-dibenzothiazepine derivative, which is subsequently reacted with 2-chloroethoxyethanol under basic conditions to give the desired 11-[4-(2-(2-hydroxyethoxy)-ethyl]-1-piperadinyldibenzothiazepin.

reactant | 11-chloro-dibenzothiazepine | ClC1=CC=CC=2C=NSC3=C(C21)C=CC=C3 | C13H8ClNS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 11-piperazinyl-dibenzothiazepine | N1(CCNCC1)C1=CC=CC=2C=NSC3=C(C21)C=CC=C3 | C17H17N3S
